2127-08-08 06:50:00 Physician Resident Progress Note
24 Hour Events:
   Transferred from the floor because of gross variceal bleeding. GI
   couldn
t scope because view was obstructed by blood, thus [**State 3822**]
   tube was placed. 500cc
s of blood were suctioned from esophagus/stomach
   overnight.
   Aline placed.
   Left subclavian CVL placed.
   Bladder pressure 26 at midnight. Called Hepatology. Will do u/s guided
   paracentesis today for decompression.
   SBP down to 90s and tachycardic to 100s around 2am so he was given 1U
   PRBCs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone for UTI
   Vital signs
   Hemodynamic monitoring
   24 hour Is and Os
   Since midnight Is and Os
    HR: 94 (92-102) bpm
   BP: 120/70 (94/61-124/75)
   SpO2: 99% (96-100%)
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 ()mmHg
   Total In = 1500
   Total In = 1500
   Total Out = 70
   Total Outs = 70
   Respiratory support
   ABG: 7.37/46/103/25/0
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) Overweight / Obese,
   Thin, No(t) Anxious, No(t) Diaphoretic, markedly cachexic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, pupils small and constrict
   sluggishly. scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Distended, distended protuberant abdomen, but less taught
   than last night
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Jaundice, mild jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   35 K/uL
   8.4 g/dL
   135 mg/dL
   1.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   44 mg/dL
   111 mEq/L
   142 mEq/L
   27.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2127-8-7**]  07:57 PM
                             [**2127-8-7**]  10:08 PM
                             [**2127-8-7**]  10:27 PM
                             [**2127-8-8**]  01:20 AM
                             [**2127-8-8**]  01:30 AM
                             [**2127-8-8**]  05:05 AM
   WBC
   5.6
   7.2
   Hct
   22.0
   26.5
   24.6
   27.0
   Plt
   51
   35
   Cr
   1.6
   1.6
   TCO2
   27
   28
   Glucose
   138
   135
   Other labs:
   PT / PTT / INR:17.8/38.5/1.6
   ALT / AST:17/34
   Alk Phos / T Bili:35/3.1
   Lactic Acid:1.9 mmol/L
   Albumin:1.9 g/dL
   LDH:212 IU/L
   Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:6.0 mg/dL
   GENERAL URINE INFORMATION
                                    Type
                                    Color
                                   Appear
                                   Sp [**Last Name (un) **]
   [1][**2127-8-8**] 09:15AM
   Yellow
                                    Clear
                                    1.009
   Source: Catheter
   [2][image003.gif]   DIPSTICK URINALYSIS
                                    Blood
                                   Nitrite
                                   Protein
                                   Glucose
                                   Ketone
                                   Bilirub
                                   Urobiln
                                     pH
                                    Leuks
   [3][**2127-8-8**] 09:15AM
                                     LG
                                     NEG
                                     NEG
                                     NEG
                                     NEG
                                     NEG
                                     NEG
                                     5.0
                                    SM[1]
   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [4][**2127-8-8**] 09:15AM
                                    [**2-19**]*
                                    [**5-27**]*
                                    NONE
                                    NONE
                                      0
   URINE CHEMISTRY
                                    Hours
                                    UreaN
                                    Creat
                                     Na
   [5][**2127-8-8**] 09:15AM
                                   RANDOM
                                     199
                                     33
                                     108
   Source: Catheter
   OTHER URINE CHEMISTRY
                                   Osmolal
   [6][**2127-8-8**] 09:15AM
                                     341
   CXR following [**Last Name (un) 4601**] placement:
   FINDINGS: In comparison with the earlier study of this date, there has
   been
   placement of [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 4601**] tube that extends well into the stomach.
   Endotracheal tube has been pulled back somewhat, so that its tip lies
   approximately 4.9 cm above the carina. Superior vena cava.
   The lungs are essentially clear.
   Abdomen XR: Official read pending.
   Assessment and Plan
   53 year old male with ESLD, HIV presenting with multiple complaints
   transferred to [**Hospital1 54**] with fevers, fount to have UTI at OSH, now with
   hematemesis likely from variceal bleed now s/p [**State 3822**] tube
   placement.
   .
   #. Hematemesis - Likely from large variceal bleed.  Patient noted to
   have 1.5L of frank hematemesis at time of EGD, which prompted [**State 3822**]
   tube placement.  FDP and D-dimer elevated, along with decreased
   haptoglobin and thrombocytopenia.
   -cont Octreotide 50mcg/hr gtt
   -cont protonix 40mg IV BID
   -f/u Hepatology recs
   -f/u HCTs. Can space out to q6h then q8h when they stabilize.
   -transfuse for HCT < 25
   -2 PIV in place, Trauma line in place.
   -Balloon to be let down this AM by hepatology. If pt does not bleed by
   1pm he will be scoped to look for source of bleeding.
   .
   # Thrombocytopenia
 Likely from large volume bleed.
   -transfuse platelets now.
   -
   #. Fever and UTI - Patient transferred from OSH with fevers and +UA,
   which makes UTI most likely diagnosis.  patient also HIV+ with CD4
   count of 170, making opportunistic infection a concern
   -f/u Urine Cx from OSH
   -cont CTX
   -f/u blood Cx from OSH and here
   -f/u stool Cx, O and P, crypto, micro, cyclospora, c.diff
   -f/u sputum Cx
   .
   #. ESLD:  patient with tense ascites, thrombocytopenia, coagulopathy.
   Given history of EtOH abuse, this is the most likely cause.  Chronic
   Hepatitis also a concern.
   -f/u Hepatatis serologies
   -MELD score 18, unlikely candidate for transplant given alcohol use and
   likely uncontrolled HIV disease
   -f/u hepatology consult
   -US of portal venous system today
   -US-guided therapeutic tap in AM, given that bladder pressure still 26.
   -Follow paracentesis with albumin transfusions.
   .
   #. HIV - CD count 170 here. will hold on treatment at this time
   .
   #. Elevated Creatinine - Patient with Cr of 1.6 on arrival, unknown
   baseline.  Likely from ESLD and recent blood loss.
   -Will cont to monitor.
   -f/u urine lytes.
   .
   #. Altered Mental Status - Patient with AMS on arrival, CT head ordered
   for evaluation
   -f/u CT head.
   .
   #. Alcoholism
   -d/c CIWA scale while intubated.
   ICU Care
   Nutrition:
   Comments: NPO. Replete lytes.
   Glycemic Control:  None.
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI [**Hospital1 **]
   VAP:
   Need for restraints reviewed
   Comments: Restraints appropriate, despite sedation, because of
   [**State 3822**] tube.
   Communication:  Comments: Have not been able to contact family. Social
   work consult today to help communicate with them.
   [**Name2 (NI) 66**] status: Full
   Disposition:ICU
   [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4
   12:44
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
   2. javascript:command('LHUB','expand')
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_27%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_30%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_31%22);

2127-08-09 05:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   EGD showed bleeding ulcer in body of stomach and non-bleeeding varices.
   Vessel in ulcer was clipped 3 times and injected with epi.
   Hb/HCT stabilized
   Mother has been [**Name (NI) 420**], will see Pt hopefully today. She is aware
   that situation is grave
   Abdominal exam continues to be concerning, but vesicular pressures
   remain in the 20s
   Abd US showed patent portal system with possiible ileus (dilated bowel
   loops)
   Toxo negative. Other serologies pending
   CONTACT IS [**First Name8 (NamePattern2) 2253**] [**Last Name (NamePattern1) 460**] [**Telephone/Fax (1) 4660**]. Mother is also seeing Pt.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-8-9**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ///25/
   Physical Examination
   GEN: Intubated and sedated. Cachectic
   HEENT: JVD. Dry MM
   CV: RRR NL S1S2 no S3S4 MRG
   PULM: CTAB
   ABD: BS+, but high pitched. Distended and tense. Tympanic to
   percussion.
   Labs / Radiology
   51 K/uL
   9.5 g/dL
   81 mg/dL
   1.6 mg/dL
   25 mEq/L
   4.1 mEq/L
   49 mg/dL
   111 mEq/L
   141 mEq/L
   26.8 %
   6.2 K/uL
        [image002.jpg]
   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     RDW
                                   Plt Ct
   [1][**2127-8-9**] 03:16AM
                                     6.2
                                    2.95*
                                    9.5*
                                    26.8*
                                     91
                                    20.3*
                                     51*
   [2][**2127-8-8**] 09:12PM
                                     7.0
                                    3.01*
                                    9.7*
                                    27.6*
                                     93
                                    20.8*
                                     64*
   [3][**2127-8-8**] 03:37PM
                                     7.4
                                    2.88*
                                    9.4*
                                    26.0*
                                     90
                                    20.4*
                                     62*
   [4][**2127-8-8**] 11:05AM
   26.5*
   82*#
   [5][**2127-8-8**] 09:15AM
                                     6.7
                                    2.98*
                                    9.4*
                                    27.6*
                                     93
                                    20.8*
                                     50*
   HEMOLYTIC WORKUP
                                   Ret Aut
   [6][**2127-8-7**] 07:20AM
                                    6.8*
                             [**2127-8-7**]  10:08 PM
                             [**2127-8-7**]  10:27 PM
                             [**2127-8-8**]  01:20 AM
                             [**2127-8-8**]  01:30 AM
                             [**2127-8-8**]  05:05 AM
                             [**2127-8-8**]  09:15 AM
                             [**2127-8-8**]  11:05 AM
                             [**2127-8-8**]  03:37 PM
                             [**2127-8-8**]  09:12 PM
                             [**2127-8-9**]  03:16 AM
   WBC
   7.2
   6.7
   7.4
   7.0
   6.2
   Hct
   26.5
   24.6
   27.0
   27.6
   26.5
   26.0
   27.6
   26.8
   Plt
   35
   39
   50
   82
   62
   64
   51
   Cr
   1.6
   1.6
   1.6
   TCO2
   27
   28
   Glucose
   135
   88
   81
   Other labs: PT / PTT / INR:16.7/38.0/1.5, ALT / AST:16/30, Alk Phos / T
   Bili:37/2.6, Lactic Acid:1.3 mmol/L, Albumin:2.1 g/dL, LDH:212 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   53 year old male with ESLD, HIV presenting with multiple complaints
   transferred to [**Hospital1 54**] with fevers, fount to have UTI at OSH, now with
   hematemesis from a gastric ulcer now s/p EGD with clipping of vessel
   and [**State 3822**] tube removal.
   .
   #. Hematemesis - From bleeding gastric ulcer.  Patient noted to have
   1.5L of frank hematemesis at time of EGD, which prompted [**State 3822**] tube
   placement.  FDP and D-dimer elevated, along with decreased haptoglobin
   and thrombocytopenia. HCT now stabilized at 26-27.
   -cont Octreotide 50mcg/hr gtt  until midnight tonight
   -cont protonix 40mg IV BID
   -f/u Hepatology recs
   -f/u HCTs q8h
   -transfuse for HCT < 25
   -2 PIV in place, Trauma line in place.
   - Central line in place
   .
   # Thrombocytopenia
 Likely from large volume bleed.
   -transfuse platelets if <50. Currently stabile in the 60s
   -
   #. Fever and UTI - Patient transferred from OSH with fevers and +UA,
   which makes UTI most likely diagnosis.  patient also HIV+ with CD4
   count of 170, making opportunistic infection a concern
   -f/u UCx and BCx results
   -cont CTX
   -f/u stool Cx, O and P, crypto, micro, cyclospora, c.diff
   -f/u sputum Cx
   .
   #. ESLD:  patient with tense ascites, thrombocytopenia, coagulopathy.
   Given history of EtOH abuse, this is the most likely cause.  Chronic
   Hepatitis also a concern.
   -f/u Hepatatis serologies
   -MELD score 18, unlikely candidate for transplant given alcohol use and
   likely uncontrolled HIV disease
   -f/u hepatology consult - recommended holding paracentesis for now
   unless compromising breathing
   -US of portal venous system showed blood flow with possible ileus
   - Will need NG placement today for POs
   .
   #. HIV - CD count 170 here. will hold on treatment at this time
   .
   #. Elevated Creatinine - Patient with Cr of 1.6 more or less this
   entire admission, unknown baseline.  Given low muscle mass, this is
   quite elevated
   -Will cont to monitor.
   -urine lytes consistent with ATN not pre-renal state, likely secondary
   to shock
   .
   #. Altered Mental Status - Patient with AMS on arrival
   -          Now having trouble weaning from ventilator.
   -          - Sent Ammonia level today
   .
   #. Alcoholism
   - Holding CIWA scale
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22);

2127-08-10 03:37:00 Physician Resident Progress Note
24 Hour Events:
   -Performed large vol paracentesis yesterday afternoon; removed 5L straw
   colored fluid.
   -Gave Albumin 5% 1.5g/kg after procedure.
   -Waited until NGT and bowel management system were in place and then
   started lactulose.  No BM
   -[**Last Name (un) **] trial- prolonged apnea
   Subjective:
    Not in pain. No trouble breathing. Belly feels better after fluid
   drained yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone ([**2127-8-9**])
   Infusions:
   Fenanyl
   Versed
   Other ICU medications:
   PPI 40mg [**Hospital1 **]
   Albuimin 5% 3X today
   Lactulose per NGT
   Rifaximin per NGT
   Flowsheet Data as of  [**2127-8-10**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tm/c: 98.9
   HR: 111 Sinus tachy
   BP 128/68 (100-147/57-92)
   Bladder Pressure 13
                  Total In:
                                                                   2liters
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
                                                              10-28mL/hour
                                                               (total 500)
                                                                     300mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   3500 mL
                                                                      0 mL
                                                       LOS balance: -994mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 () mL
   Vt (Spontaneous): 380 () mL
   PS : 5 cmH2O
   RR (Set): 24
   PEEP: 0 cmH2O
   FiO2: 0.50
   RSBI:
   ABG: 7.41/42/84.[**Numeric Identifier 1625**]/23/1 -> 7.44/37/123
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: Systolic), heard throughout precordium loudest at apex
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, Movement: Not assessed, Sedated, Tone:
   Not assessed
   Labs / Radiology
   59 K/uL
   8.9 g/dL
   96 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.2 mEq/L
   54 mg/dL
   113 mEq/L
   143 mEq/L
   25.5 %
   5.5 K/uL
        [image002.jpg]
                             [**2127-8-8**]  05:05 AM
                             [**2127-8-8**]  09:15 AM
                             [**2127-8-8**]  11:05 AM
                             [**2127-8-8**]  03:37 PM
                             [**2127-8-8**]  09:12 PM
                             [**2127-8-9**]  03:16 AM
                             [**2127-8-9**]  09:49 AM
                             [**2127-8-9**]  10:01 AM
                             [**2127-8-9**]  04:05 PM
                             [**2127-8-10**]  03:11 AM
   WBC
   6.7
   7.4
   7.0
   6.2
   6.2
   5.5
   Hct
   27.0
   27.6
   26.5
   26.0
   27.6
   26.8
   26.9
   25.8
   25.5
   Plt
   39
   50
   82
   62
   64
   51
   56
   59
   Cr
   1.6
   1.6
   1.7
   TCO2
   28
   Glucose
   88
   81
   71
   96
   Other labs: PT / PTT / INR:16.9/38.3/1.5, ALT / AST:16/30, Alk Phos / T
   Bili:37/3.4, Lactic Acid:1.3 mmol/L, Albumin:2.1 g/dL, LDH:212 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Ammonia: 89
   CMV IgG Positive IgM Negative
   Toxo negative
   HIV viral load 280,000
   Urine cultures X2 negative. Blood and fungal cultures all pending.
                                   Ascites
                                  Chemistry
                                    Protein
                                     0.9
                                    Glucose
                                      LDH
   Albumin: <1.0
     Ascites
                                      WBC
                                     120
                                      RBC
                                     400
                                     Poly
                                      9
                                     Lymph
                                     18
                                     Mono
                                      0
                                      EOs
   Atyps: 2
   Mesothe: 12
   Macroph: 59
   Assessment and Plan
   53 year old male with ESLD, HIV presenting with multiple complaints
   transferred to [**Hospital1 54**] with fevers, fount to have UTI at OSH, now with
   hematemesis from a gastric ulcer now s/p EGD with clipping of vessel
   and [**State 3822**] tube removal.
   .
   #. Hematemesis - From bleeding gastric ulcer.  Patient noted to have
   1.5L of frank hematemesis at time of EGD, which prompted [**State 3822**] tube
   placement.  FDP and D-dimer elevated, along with decreased haptoglobin
   and thrombocytopenia. HCT now stabilized at 26-27.
   -discontinued Octreotide 50mcg/hr gtt  at midnight last night
   -cont protonix 40mg IV BID
   -f/u Hepatology recs
   -f/u HCTs q8h
   -transfuse for HCT < 25
   -Trauma line in place.
   # Ventilated
   -          Last ABG on only 5 PS very good. To be extubated today.
   #. Tachycardia and ectopy:
   -Propranolol 10mg TID
   -check lytes and replete as necessary
   .
   # Thrombocytopenia
 Likely from large volume bleed.
   -transfuse platelets if <50. Currently stabile in the 60s
   -
   #. Fever - Patient transferred from OSH with fevers and +UA, which
   makes UTI most likely diagnosis.  patient also HIV+ with CD4 count of
   170, making opportunistic infection a concern. Urine cultures X2
   negative here.
   - BCx results
   -cont CTX
   -f/u sputum Cx
   -Paracentesis fluid not c/w SBT. On ceftriaxone for ?UTI from osh.
   .
   #. ESLD:  patient with tense ascites, thrombocytopenia, coagulopathy.
   Given history of EtOH abuse, this is the most likely cause.  Chronic
   Hepatitis also a concern.
   -f/u Hepatatis serologies
   -MELD score 18, unlikely candidate for transplant given alcohol use and
   likely uncontrolled HIV disease
   -Albumin 25% 1gm/kg X3 to be given today after paracentesis yesterday
   (5L taken off)
   -US of portal venous system showed blood flow with possible ileus
   .
   #. HIV - CD count 170 here. will hold on treatment at this time. [**Month (only) 60**]
   need PCP prophylaxis now as CD4 count <200.
   -will start atovaquone
   .
   #. Elevated Creatinine - Patient with Cr of 1.6 more or less this
   entire admission, unknown baseline.  Given low muscle mass, this is
   quite elevated
   -Will cont to monitor.
   -urine lytes consistent with ATN not pre-renal state, likely secondary
   to shock
   .
   #. Altered Mental Status - Patient with AMS on arrival
   -          Now awake and alert. Still intubated.
   #. Alcoholism
   - Holding CIWA scale
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   CVL Left subclavian ([**2127-8-7**])
   A-line ([**2127-8-7**])
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU until extubated and stable

2127-08-11 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated. ABGs on shovel: 7.44/37/97
   Started TF: Probalance to goal 60mL/hr. Patient developed abdominal
   pain - [**9-26**]. He was unable to characterize it more. Gave dilaudid for
   pain and simethicone for ? gas pains. Then residuals noted to be
   >200mL. Stopped TF.
   OSH micro: Blood cultures NGTD, Ascites fluid transudative with
   negative gram stain
   Pulled his NGT at 1am. Placed new one. F/U CXR to confirm placement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-8-11**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.44/37/96.[**Numeric Identifier 244**]/24/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   66 K/uL
   10.0 g/dL
   86 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   51 mg/dL
   117 mEq/L
   147 mEq/L
   29.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2127-8-9**]  09:49 AM
                             [**2127-8-9**]  10:01 AM
                             [**2127-8-9**]  04:05 PM
                             [**2127-8-10**]  03:11 AM
                             [**2127-8-10**]  08:02 AM
                             [**2127-8-10**]  11:08 AM
                             [**2127-8-10**]  11:23 AM
                             [**2127-8-10**]  06:18 PM
                             [**2127-8-10**]  10:54 PM
                             [**2127-8-11**]  02:07 AM
   WBC
   6.2
   5.5
   6.1
   6.5
   7.8
   Hct
   26.9
   25.8
   25.5
   25.3
   27.9
   28.6
   29.0
   Plt
   56
   59
   53
   53
   66
   Cr
   1.7
   1.6
   1.5
   TCO2
   28
   26
   26
   Glucose
   71
   96
   92
   86
   Other labs: PT / PTT / INR:17.3/38.2/1.6, ALT / AST:13/28, Alk Phos / T
   Bili:30/3.9, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:212 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   53 year old male with ESLD, HIV presenting with multiple complaints
   transferred to [**Hospital1 54**] with fevers, fount to have UTI at OSH, now with
   hematemesis from a gastric ulcer now s/p EGD with clipping of vessel
   and [**State 3822**] tube removal.
   .
   #. Hematemesis - From bleeding gastric ulcer.  Patient noted to have
   1.5L of frank hematemesis at time of EGD, which prompted [**State 3822**] tube
   placement.  FDP and D-dimer elevated, along with decreased haptoglobin
   and thrombocytopenia. HCT now stabilized at 26-27.
   -discontinued Octreotide 50mcg/hr gtt  at midnight last night
   -cont protonix 40mg IV BID
   -f/u Hepatology recs
   -f/u HCTs q8h
   -transfuse for HCT < 25
   -Trauma line in place.
   # Ventilated
   -          Last ABG on only 5 PS very good. To be extubated today.
   #. Tachycardia and ectopy:
   -Propranolol 10mg TID
   -check lytes and replete as necessary
   .
   # Thrombocytopenia
 Likely from large volume bleed.
   -transfuse platelets if <50. Currently stabile in the 60s
   -
   #. Fever - Patient transferred from OSH with fevers and +UA, which
   makes UTI most likely diagnosis.  patient also HIV+ with CD4 count of
   170, making opportunistic infection a concern. Urine cultures X2
   negative here.
   - BCx results
   -cont CTX
   -f/u sputum Cx
   -Paracentesis fluid not c/w SBT. On ceftriaxone for ?UTI from osh.
   .
   #. ESLD:  patient with tense ascites, thrombocytopenia, coagulopathy.
   Given history of EtOH abuse, this is the most likely cause.  Chronic
   Hepatitis also a concern.
   -f/u Hepatatis serologies
   -MELD score 18, unlikely candidate for transplant given alcohol use and
   likely uncontrolled HIV disease
   -Albumin 25% 1gm/kg X3 to be given today after paracentesis yesterday
   (5L taken off)
   -US of portal venous system showed blood flow with possible ileus
   .
   #. HIV - CD count 170 here. will hold on treatment at this time. [**Month (only) 60**]
   need PCP prophylaxis now as CD4 count <200.
   -will start atovaquone
   .
   #. Elevated Creatinine - Patient with Cr of 1.6 more or less this
   entire admission, unknown baseline.  Given low muscle mass, this is
   quite elevated
   -Will cont to monitor.
   -urine lytes consistent with ATN not pre-renal state, likely secondary
   to shock
   .
   #. Altered Mental Status - Patient with AMS on arrival
   -          Now awake and alert. Still intubated.
   #. Alcoholism
   - Holding CIWA scale
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   CVL Left subclavian ([**2127-8-7**])
   A-line ([**2127-8-7**])
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU until extubated and stable

2127-08-12 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Some hallucinations and paranoia- presumed hepatic encephalopathy,
   continued lactulose
   -was tolerating NG meds but developed high residuals (400cc)  on tube
   feeds and feeds were stopped.  Attempted reglan
   -abd continues to be distended and tympanic. passing gas and stool (on
   lactulose and simethicone)
   -bladder pressure O/N 19
   -Transfused 1 un plate with goal of plat >50
   - urine lytes suggest pt is pre-renal
   -Plan to D/C abx after tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-8-12**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 86 (74-89)
   BP: 136/85 (136/85-155/92)
   SaO2: 96% (95-99%)
   RR: 16 (14-22)
             Total In:
                                                                    560 mL
             PO:
             TF:
   IVF:
   500
   Blood products:
   Total out:
                                                                    499 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                       350
                                                                       100
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.39/40/66/24/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   10.5 g/dL
   88 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.7 mEq/L
   64 mg/dL
   117 mEq/L
   149 mEq/L
   31.2 %
   10.6 K/uL
        [image002.jpg]
   Urine Lytes:
   Urea 401
   Cr 76
   Na 67
   K 30
   PT 19.5  PTT 41.3  INR 1.8
                             [**2127-8-10**]  03:11 AM
                             [**2127-8-10**]  08:02 AM
                             [**2127-8-10**]  11:08 AM
                             [**2127-8-10**]  11:23 AM
                             [**2127-8-10**]  06:18 PM
                             [**2127-8-10**]  10:54 PM
                             [**2127-8-11**]  02:07 AM
                             [**2127-8-11**]  04:31 PM
                             [**2127-8-12**]  02:24 AM
                             [**2127-8-12**]  03:08 AM
   WBC
   5.5
   6.1
   6.5
   7.8
   10.6
   Hct
   25.5
   25.3
   27.9
   28.6
   29.0
   30.7
   31.2
   Plt
   59
   53
   53
   66
   47
   Cr
   1.7
   1.6
   1.5
   1.5
   TCO2
   26
   26
   25
   Glucose
   96
   92
   86
   88
   Other labs: PT / PTT / INR:19.5/41.3/1.8, ALT / AST:13/28, Alk Phos / T
   Bili:30/3.9, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:212 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   53 year old male with ESLD, HIV presenting with multiple complaints
   transferred to [**Hospital1 54**] with fevers, fount to have UTI at OSH, now with
   hematemesis from a gastric ulcer now s/p EGD with clipping of vessel
   and [**State 3822**] tube removal.
   #. Hematemesis - From bleeding gastric ulcer.  Patient noted to have
   1.5L of frank hematemesis at time of EGD, which prompted [**State 3822**] tube
   placement.  FDP and D-dimer elevated, along with decreased haptoglobin
   and thrombocytopenia. HCT now stabilized.
   -discontinued Octreotide
   -cont protonix 40mg IV BID
   -f/u Hepatology recs
   -transfuse for HCT < 25
   #. Tachycardia and ectopy:
   -Propranolol 10mg TID PO tolerating so far
   -check lytes and replete as necessary
   # Thrombocytopenia
 Likely from large volume bleed.
   - Currently, infusing 1 un.  Will recheck platelets following infusion
   -transfuse platelets if <50. Currently stabile in the 60s
   #. Fever - Patient transferred from OSH with fevers and +UA, which
   makes UTI most likely diagnosis.  patient also HIV+ with CD4 count of
   170, making opportunistic infection a concern. Urine cultures X2
   negative here.
   - BCx results pending
   -f/u sputum Cx
   -Paracentesis fluid not c/w SBT. On ceftriaxone for ?UTI from osh
   CTX  until [**2127-8-13**]
   #. ESLD:  patient with tense ascites, thrombocytopenia, coagulopathy.
   Given history of EtOH abuse, this is the most likely cause.  Chronic
   Hepatitis also a concern.
   -f/u Hepatatis serologies
   -MELD score 18, unlikely candidate for transplant given alcohol use and
   likely uncontrolled HIV disease
   -US of portal venous system showed blood flow with possible ileus
   #. HIV - CD count 170 here. will hold on treatment at this time. [**Month (only) 60**]
   need PCP prophylaxis now as CD4 count <200.
   -will start atovaquone
   - Consult ID for HIV management
   #. Elevated Creatinine - Patient with Cr of 1.6 more or less this
   entire admission, unknown baseline.  Given low muscle mass, this is
   quite elevated
   -Will cont to monitor.
   -Previously, urine lytes showed ATN, now, lytes consistent with
   pre-renal state
   - Gave pt a 500 cc NS bolus at midnight
   - Consider giving another bolus
   #. Altered Mental Status - Patient with AMS on arrival
   -  Now awake and alert, agitated.
   - Halucinating and paranoid. Unclear if hepatic encephalopathy, AIDS,
   or ICU psychosis.  Continue lactulose for now with goal of mental
   clearing
   #. Alcoholism
   - Holding CIWA scale for now to be able to eval encaphalpathy
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-08-13 06:05:00 Physician Resident Progress Note
24 Hour Events:
   -PICC placed (right arm)
   -Art line pulled; central line to be pulled this am
   -Desatted intermittently to low 80s, could not effectively suction, but
   would spontaneously resolve.  Breathing subjectively improved s/p Lasix
   (UOP did not change).
   -0mL UOP over last few hours; increasing Cr.  Trying albumin
   -NGT replaced; to go for post-pyloric feeding tube today (could not get
   yesterday).  Held tube feeds overnight due to desats. Was able to take
   meds by NGT
   -Continues to be altered; will often refuse
   treatments/interventions/care.  D/c'd Reglan in case this was a cause.
   Switched to Erythromycin
   -ID consulted- no HAART at this time; suggested head imaging
   - ? of aspiration during turning O/N
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-8-13**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   96.8   127/78  81  24
   98% on 70% mask
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                     1.1 L
                                                                    135 mL
   Urine:
                                                                    262 mL
                                                                      35mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ///24/
   Physical Examination
   GEN: Cachectic, distressed, looks sick, A&Ox2 (person and place only),
   more agitated and confused
   HEENT: Dry MM, dried blood on teeth, poor dentition.
   CV: Difficult exam. RRR, NL S1S2, no MRG
   PULM: Coarse wet crackles bilat R>L
   ABD: BS+/-, Distended, tender
   LIMBS: wasted, clubbing
   Labs / Radiology
   73 K/uL
   9.4 g/dL
   81 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   76 mg/dL
   116 mEq/L
   148 mEq/L
   28.6 %
   12.1 K/uL
        [image002.jpg]
   N:71.4 L:24.2 M:3.0 E:1.1 Bas:0.3
   INR 2.0
                             [**2127-8-10**]  11:08 AM
                             [**2127-8-10**]  11:23 AM
                             [**2127-8-10**]  06:18 PM
                             [**2127-8-10**]  10:54 PM
                             [**2127-8-11**]  02:07 AM
                             [**2127-8-11**]  04:31 PM
                             [**2127-8-12**]  02:24 AM
                             [**2127-8-12**]  03:08 AM
                             [**2127-8-12**]  10:12 AM
                             [**2127-8-13**]  02:01 AM
   WBC
   6.1
   6.5
   7.8
   10.6
   12.1
   Hct
   25.3
   27.9
   28.6
   29.0
   30.7
   31.2
   28.6
   Plt
   53
   53
   66
   47
   109
   73
   Cr
   1.6
   1.5
   1.5
   2.0
   TCO2
   26
   25
   Glucose
   92
   86
   88
   81
   Other labs: PT / PTT / INR:21.2/44.6/2.0, ALT / AST:13/36, Alk Phos / T
   Bili:31/4.7, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:220 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.5 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   53 year old male with ESLD, HIV presenting with multiple complaints
   transferred to [**Hospital1 54**] with fevers, fount to have UTI at OSH, now with
   hematemesis from a gastric ulcer now s/p EGD with clipping of vessel
   and [**State 3822**] tube removal.
   #. Renal failure: Elevated Creatinine and decreased UOP - Patient with
   Cr of 1.6 BL now 2.0 more or less this entire admission, unknown
   baseline.  Given low muscle mass, this is quite elevated.
   - Previously, urine lytes showed ATN, now, lytes consistent with
   pre-renal state
   - Will give 500ml of 5% albumin  for fluid and albumin resus
   - Plan for paracentesis today to relieve pressure on renal vasculature
   which may be contributing to ARF
   #. Altered Mental Status - Patient with AMS on arrival, had improved
   but now worsening. Unclear if this is AIDS dementia, uremic, or hepatic
   encephalopathy
   -  Now awake, alert, and agitated.
   - Will try again with NG lactulose plus lactulose enema as before
   #. ESLD:  patient with tense ascites, thrombocytopenia, coagulopathy.
   Given history of EtOH abuse, this is the most likely cause.  Chronic
   Hepatitis also a concern.
   -Propranolol 10mg TID PO for varices
   -MELD score 18, unlikely candidate for transplant given alcohol use and
   likely uncontrolled HIV disease
   -US of portal venous system showed blood flow with possible ileus
   # Gaseous distension of colon: Ongoing problem for this Pt. Etiology
   unclear.
   - Passing gas. Stool more solid now.
   - Add back lactulose as tolerated and lactulose enema x 1 today
   - [**Month (only) 60**] be contributing to high intraabdominal pressure which may be
   complicating ARF
   #. Leukocytosis and fever - Patient transferred from OSH with fevers
   and +UA, which makes UTI most likely diagnosis.  patient also HIV+ with
   CD4 count of 170, making opportunistic infection a concern. Urine
   cultures X2 negative here.
   - BCx results pending
   - Paracentesis fluid not c/w SBT. On ceftriaxone for ?UTI from osh
   CTX  until [**2127-8-13**]
   - As of [**2127-8-13**] WBC rising with mild neutrophilia. Source of infection
   unclear. CXR concerning for aspiration. UCx pending.
   - Repeating paracentesis on [**2127-8-13**]
   #. Hematemesis - From bleeding gastric ulcer.  Patient noted to have
   1.5L of frank hematemesis at time of EGD, which prompted [**State 3822**] tube
   placement.  FDP and D-dimer elevated, along with decreased haptoglobin
   and thrombocytopenia. HCT now stabilized.
   -discontinued Octreotide
   -cont protonix 40mg IV BID
   -f/u Hepatology recs
   -transfuse for HCT < 25
   # Thrombocytopenia
 multifactorial. Related to liver disease and AIDS
   most likely
   - Infused 1 U [**8-12**] with good effect
   -transfuse platelets if <50 given recent UGIB
   #. HIV - CD count 170 here. will hold on treatment at this time. [**Month (only) 60**]
   need PCP prophylaxis now as CD4 count <200.
   - started atovaquone
   - ID holding HAART for now given poor PO absorption
   #. Alcoholism
   - Holding CIWA scale for now to be able to eval encaphalpathy
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SC heparin and boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-08-14 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Paracentesis: drained 6liters.
   Gave 75mg Albumin. No SBP so no more albumin given.
   After lactulose enema and paracentesis pressures dropped into 80s/50s.
   Gave 2X 250mL NS bolus. Hct 28.6->25.8->25.2. no blood given as patient
   stabilized with NS boluses and didnt want to give more fluid.
   Had long discussion with mother about patient's status. Mother would
   like DNR/DNI for the next few days with the idea that if he is not
   getting better with the treatments we're giving him then we are going
   to change our goals of care to keep him comfortable. We will not
   escalate his care at this time and will not cease any care that we are
   giving him now.
   Hypernatremic. 150. Given D5W X250mL.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-8-14**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   41 K/uL
   8.9 g/dL
   79 mg/dL
   2.2 mg/dL
   26 mEq/L
   3.8 mEq/L
   87 mg/dL
   120 mEq/L
   150 mEq/L
   27.0 %
   14.8 K/uL
        [image002.jpg]
                             [**2127-8-10**]  10:54 PM
                             [**2127-8-11**]  02:07 AM
                             [**2127-8-11**]  04:31 PM
                             [**2127-8-12**]  02:24 AM
                             [**2127-8-12**]  03:08 AM
                             [**2127-8-12**]  10:12 AM
                             [**2127-8-13**]  02:01 AM
                             [**2127-8-13**]  05:10 PM
                             [**2127-8-13**]  07:40 PM
                             [**2127-8-14**]  02:23 AM
   WBC
   7.8
   10.6
   12.1
   10.5
   14.8
   Hct
   28.6
   29.0
   30.7
   31.2
   28.6
   25.8
   25.2
   27.0
   Plt
   66
   47
   109
   73
   48
   44
   41
   Cr
   1.5
   1.5
   2.0
   2.2
   TCO2
   25
   Glucose
   86
   88
   81
   79
   Other labs: PT / PTT / INR:24.0/59.3/2.3, ALT / AST:[**12-14**], Alk Phos / T
   Bili:24/4.6, Differential-Neuts:71.4 %, Lymph:24.2 %, Mono:3.0 %,
   Eos:1.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:159 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
   53 year old male with ESLD, HIV presenting with multiple complaints
   transferred to [**Hospital1 54**] with fevers, fount to have UTI at OSH, now with
   hematemesis from a gastric ulcer now s/p EGD with clipping of vessel
   and [**State 3822**] tube removal.
   .
   #. Hematemesis - From bleeding gastric ulcer.  Patient noted to have
   1.5L of frank hematemesis at time of EGD, which prompted [**State 3822**] tube
   placement.  FDP and D-dimer elevated, along with decreased haptoglobin
   and thrombocytopenia. HCT now stabilized at 26-27.
   -discontinued Octreotide 50mcg/hr gtt  at midnight last night
   -cont protonix 40mg IV BID
   -f/u Hepatology recs
   -f/u HCTs q8h
   -transfuse for HCT < 25
   -Trauma line in place.
   # Ventilated
   -          Last ABG on only 5 PS very good. To be extubated today.
   #. Tachycardia and ectopy:
   -Propranolol 10mg TID
   -check lytes and replete as necessary
   .
   # Thrombocytopenia
 Likely from large volume bleed.
   -transfuse platelets if <50. Currently stabile in the 60s
   -
   #. Fever - Patient transferred from OSH with fevers and +UA, which
   makes UTI most likely diagnosis.  patient also HIV+ with CD4 count of
   170, making opportunistic infection a concern. Urine cultures X2
   negative here.
   - BCx results
   -cont CTX
   -f/u sputum Cx
   -Paracentesis fluid not c/w SBT. On ceftriaxone for ?UTI from osh.
   .
   #. ESLD:  patient with tense ascites, thrombocytopenia, coagulopathy.
   Given history of EtOH abuse, this is the most likely cause.  Chronic
   Hepatitis also a concern.
   -f/u Hepatatis serologies
   -MELD score 18, unlikely candidate for transplant given alcohol use and
   likely uncontrolled HIV disease
   -Albumin 25% 1gm/kg X3 to be given today after paracentesis yesterday
   (5L taken off)
   -US of portal venous system showed blood flow with possible ileus
   .
   #. HIV - CD count 170 here. will hold on treatment at this time. [**Month (only) 60**]
   need PCP prophylaxis now as CD4 count <200.
   -will start atovaquone
   .
   #. Elevated Creatinine - Patient with Cr of 1.6 more or less this
   entire admission, unknown baseline.  Given low muscle mass, this is
   quite elevated
   -Will cont to monitor.
   -urine lytes consistent with ATN not pre-renal state, likely secondary
   to shock
   .
   #. Altered Mental Status - Patient with AMS on arrival
   -          Now awake and alert. Still intubated.
   #. Alcoholism
   - Holding CIWA scale
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: